US05223498
A mixture of N-methyl-N'-(6-methyl-2-morpholinophenyl)thiourea (11.5 g), methyl iodide (6.75 g) and acetone (100 ml) was heated under reflux for 2.5 hours to give 2-methyl-1-(6-methyl-2-morpholinophenyl)-3-methyl-2-thiopseudourea hydroiodide (m.p. 187°-188° C.).

reactant | N-methyl-N'-(6-methyl-2-morpholinophenyl)thiourea | 11.5 g | CNC(=S)NC1=C(C=CC=C1C)N1CCOCC1 | C13H19N3OS
reactant | methyl iodide | 6.75 g | CI | CH3I
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-methyl-1-(6-methyl-2-morpholinophenyl)-3-methyl-2-thiopseudourea hydroiodide | I.CSC(NC1=C(C=CC=C1C)N1CCOCC1)=NC | InChI=1S/C14H21N3OS.HI/c1-11-5-4-6-12(17-7-9-18-10-8-17)13(11)16-14(15-2)19-3;/h4-6H,7-10H2,1-3H3,(H,15,16);1H
